US04786312
13.5 g (0.07 mol) of 2-butoxy-6-ethylaniline are heated on a water separator with 11.8 g (0.099 mol) of ethyl glyoxylate in 100 ml of toluene until water formation is complete. The mixture is evaporated, the residue is dried in a high vacuum and taken up in 30 ml of dimethoxyethane, and the solution is added dropwise with 13.4 g (0.069 mol) of p-toluenesulfonylmethyl isocyanide to a suspension of 4.3 g (0.14 mol) of 80% strength sodium hydride (white oil) in 20 ml of dimethoxyethane at -20° C. When the gas evolution is complete, the mixture is hydrolyzed by adding water dropwise, the reaction products are extracted with methylene chloride, and the solvent is evaporated. The residue is taken up in 50 ml of ethanol, 20 g of potassium carbonate are added, and the mixture is stirred for 2 hours at 50° C. After evaporation, the residue is taken up in toluene/water, the organic phase is dried and evaporated, and the residue is chromatographed through a silica gel column (petroleum ether/ethyl acetate 8:2). 12.1 g (55% of theory relative to aniline employed) of ethyl 1-(2-butoxy-6-ethylphenyl)imidazole-5-carboxylate, a pale yellow oil, are obtained.

reactant | 2-butoxy-6-ethylaniline | 0.07 mol, 13.5 g | C(CCC)OC1=C(N)C(=CC=C1)CC | C12H19NO
reactant | ethyl glyoxylate | 0.099 mol, 11.8 g | C(C=O)(=O)OCC | C4H6O3
reactant | p-toluenesulfonylmethyl isocyanide | 0.069 mol, 13.4 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | sodium hydride | [H-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | water | O | H2O
product | ethyl 1-(2-butoxy-6-ethylphenyl)imidazole-5-carboxylate | 12.1 g, 55% | C(CCC)OC1=C(C(=CC=C1)CC)N1C=NC=C1C(=O)OCC | C18H24N2O3
